Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M w a h/o AML diagnosed ___ on azacytidine (last 
___, Bladder Ca s/p resection, afib on coumadin, 
worsening macrocytic anemia of unknown etiology, HTN and chronic 
osteomyelitis, presenting with weakness, lower back pain.  

Patient report subacute onset lower back pain without neurologic 
deficits, no motor weakness, no decreased sensation.  Most 
recent labs ___ WBC 5.2 N38.9%, Hgb 8.4, Hct 24.5.  

On review of symptoms, patient does report increasing lumbar 
back pain over the last 2 weeks.  Pain w any activity and has 
been interfering w ADLs.  Patient denies recent fevers, chills, 
nightsweats, cough, SOB, wheezing, rhinorrhea congestion. No 
chest pain or tightness.  No nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel 
habits, no hematochezia or melena. No dysuria or change in 
bladder habits. 

Also, per outpatient oncologist, Dr. ___ felt that 
over the last week, chronic ___ wound had increasing foul 
smelling discharge.  Patient denies this.  
 
Past Medical History:
Past Oncologic History:
-Bladder Ca dxed ___ s/p transurethral surgery (care by 
Dr. ___ with ___ in ___.
-AML diagnosed (care by Dr. ___ at ___ ___, 
___ started azacytidine, now s/p 6 cycles, most recent dose 
___.
.
Other Past Medical History:  
___: 
-Afib
-HTN
-Chronic left lower ext ulcer with osteomyelitis and cellulitis 
s/p shrapnel injury in WWII
 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
ADMISSION
VS: 96.7 138/80 65 20 98%RA
GEN: AOx3, NAD
HEENT:  PERRL, MMM, OP clear
NECK: supple, no LAD, no JVD
Cards: RRR, S1/S2 normal. no murmurs/gallops/rubs.
Pulm: No dullness to percussion, CTAB no crackles or wheezes
Abd: BS+, soft, NT, no rebound/guarding
Extremities: WWP, 2+ ___ pulses, no c/c/e; LLE 1cm 
ulcer w minimal foul-smelling serosanguinous discharge, no 
erythema, no pus 
Skin: No rashes or bruising
Neuro: CNs II-XII intact, motor ___ in upper and lower 
extremities. sensation grossly intact, gait not observed. 

DISCHARGE
VS: 97.8 (tmax 99.6) 132/74 (SBP 122-152) 72 18 94%RA
GEN: AOx3, NAD
HEENT:  PERRL, MMM, OP clear
NECK: supple, no LAD, no JVD
Cards: RRR, S1/S2 normal. no murmurs/gallops/rubs.
Pulm: No dullness to percussion, CTAB no crackles or wheezes
Abd: BS+, soft, NT, no rebound/guarding
Extremities: WWP, 2+ ___ pulses, no c/c/e; LLE 1cm 
ulcer w minimal discharge stable from prior, nonpainful, no 
erythema, no pus
Skin: No rashes or bruising
Neuro: Motor ___ in upper and lower extremities, sensation 
grossly intact
 
Pertinent Results:
Blood Counts:
___ 09:05PM BLOOD WBC-3.0* RBC-2.87* Hgb-8.4* Hct-24.6* 
MCV-86 MCH-29.3# MCHC-34.3 RDW-16.1* Plt Ct-43*#
___ 07:00AM BLOOD WBC-3.6* RBC-2.99* Hgb-8.4* Hct-24.6* 
MCV-82 MCH-28.2 MCHC-34.4 RDW-15.4 Plt Ct-32*

Coags:
___ 07:35AM BLOOD ___ PTT-42.6* ___
___ 07:00AM BLOOD ___ PTT-37.3* ___

Chemistry
___ 09:05PM BLOOD Glucose-118* UreaN-53* Creat-1.7* Na-140 
K-4.2 Cl-107 HCO3-23 AnGap-14
___ 07:00AM BLOOD Glucose-105* UreaN-31* Creat-1.1 Na-142 
K-4.2 Cl-111* HCO3-22 AnGap-13

Micro
**FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Final ___: 
      Due to mixed bacterial types (>=3) an abbreviated workup 
is
      performed; P.aeruginosa, S.aureus and beta strep. are 
reported if
      present. Susceptibility will be performed on P.aeruginosa 
and
      S.aureus if sparse growth or greater.. 

 
Brief Hospital Course:
HOSPITAL COURSE
___ M w h/o AML diagnosed ___ on azacytidine (last 
___, afib on coumadin, transfusion-dependent anemia, HTN 
and chronic osteomyelitis, presenting with lower back pain w/o 
infiltration or infection on imaging, pain controlled and 
discharged to rehabilitation. 
.
ACTIVE
#. Back pain - Patient w subacute worsening of back pain over 
2wks; CT w extensive DJD, no signs infiltrative or infectious 
process, likely musculoskeletal.  Patient was started on 
lidocaine patch, standing tylenol, standing gabapentin, and prn 
oxycodone.  He underwent workup by physical therapy who felt 
that he could benefit from physical rehabilitation.  
.
#. Chronic Anemia - Patient w HCT<30 since ___, per report 
uncertain etiology, transfusion-dependent q2-3wks since ___.  
Patient HCT was monitored and transfused with goal HCT>25, 
receiving 3units pRBCs during admission, with stable vital signs 
and without signs of bleeding
.
INACTIVE
# Chronic Osteomyelitis - Chronic ___ WWII shrapnel, evaluated 
by wound care without signs of deep wound infection.  Per 
discussion with patient, he is not concerned regarding this 
wound and believes it is stable, does not wish any further 
evaluation or treatment
.
# AML - Patient w hx AML, now s/p 6 cycles azacitadine ___, 
c/b anemia as discussed above.  Patient was continued on daily 
hydrea.  Azacitadine was deferred until 
.
# Bladder Ca s/p resection, patient asymptomatic during this 
admission.  
.  
# GERD - Patient was continued on Omeprazole.  
.
# Afib: Patient was continued on home coumadin. INR at d/c was 
3.6.  He was continued on atenolol.  
.
TRANSITIONAL
1. Code status: Patient remained full code for duration of this 
hospitalization
2. Pending labs: No labs pending at time of discharge
3. Transition of Care: Patient discharged to rehabilitation with 
follow-up scheduled with outpatient oncologist Dr. ___ 
___.  
 
Medications on Admission:
Hydroxyurea 500mg qday
Omeprazole 20mg daily
Coumadin 5mg ___, 2.5mg ___
atenolol 25mg daily
Ocuvite BID
megestrol 20mL BID
Azacitidine per protocol
 
Discharge Medications:
1. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. megestrol 400 mg/10 mL (40 mg/mL) Suspension Sig: Twenty (20) 
mL PO BID (2 times a day).  
3. Ocuvite ___ unit-unit-mg Tablet Sig: One (1) Tablet PO 
twice a day.  
4. atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. gabapentin 100 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
6. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q3H (every 3 hours) 
as needed for pain.  
7. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  
8. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
9. hydroxyurea 500 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
10. Coumadin 2.5 mg Tablet Sig: One (1) Tablet PO DAYS ___ and 
___.  
11. Coumadin 2.5 mg Tablet Sig: Two (2) Tablet PO Days 
(___).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
Acute Myeloid Leukemia

SECONDARY
Degenerative Joint Disease of Lumbar Spine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dr. ___,

___ was a pleasure taking care of you at ___ 
___.  You were admitted for evaluation of your back 
pain.  You underwent a CT of your back which did not show signs 
of cancer infiltration or infection.  Likely the pain you are 
experiencing is a result of chronic degeneration that is common 
with age.  You were started on medications to help with your 
pain.  You were also evaluated by physical therapists who felt 
that you would benefit from rehabilitation.  

During this hospitalization, the following changes were made to 
your medications:
-HELD Azacitidine (please do take until you speak with your 
outpatient oncologist Dr. ___
-STARTED lidocaine patch
-STARTED gabapentin
-STARTED acetaminophen
-STARTED oxycodone

Please see below for your scheduled follow-up appointments
 
Followup Instructions:
___